US04221811
In a reaction vessel provided with a carbon dioxide condenser, a mixture of 6.18 g (0.015 mol) of Bu3Sn(CH2)3Br and 20 ml of Me2NH was refluxed for 7 h. The residue obtained after evaporation of the excess of Me2NH was taken up in 30 ml of diethyl ether and treated for 15 min with 50 ml of a 10% aqueous solution of NaHCO3. Distillation gave 4.95 g (86%) of (3-dimethylaminopropyl)tributyltin.

reactant | Bu3Sn(CH2)3Br | 0.015 mol, 6.18 g | [Sn](CCCC)(CCCC)(CCCC)CCCBr
reactant | Me2NH | 20 ml | N(C)C | C2H7N
product | (3-dimethylaminopropyl)tributyltin | 4.95 g, 86% | CN(CCC[Sn](CCCC)(CCCC)CCCC)C | InChI=1S/C5H12N.3C4H9.Sn/c1-4-5-6(2)3;3*1-3-4-2;/h1,4-5H2,2-3H3;3*1,3-4H2,2H3;
